US04447446
(a) N-Furfuryl-3,5-dichlorobenzamide
To a vigorously stirred solution of furfurylamine (2.78 g) in ethyl acetate (40 ml) was added sodium hydroxide (1.15 g) in water (45 ml), followed immediately by the addition of a solution of 3,5-dichlorobenzoyl chloride (6.0 g) in ethyl acetate (20 ml). Following the mild exothermic reaction the ethyl acetate layer was removed, dried (MgSO4), and evaporated. Crystallisation of the residue from cyclohexane gave the product (6.6 g) as colourless needles.

reactant | furfurylamine | 2.78 g | C(C1=CC=CO1)N | C5H7NO
reactant | sodium hydroxide | 1.15 g | [OH-].[Na+]
reactant | 3,5-dichlorobenzoyl chloride | 6.0 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 45 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-Furfuryl-3,5-dichlorobenzamide | 6.6 g | C(C1=CC=CO1)NC(C1=CC(=CC(=C1)Cl)Cl)=O | C12H9Cl2NO2
